Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
25 foot fall from ladder
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This patient is a ___ year old male who presents from medflight 
s/p 25 foot fall off of ladder. Pt boarded and collared. 
Complains of right sided pain to right wrist, right chest, and 
back. Denies LOC. Denies neck pain, but states he felt his neck 
snap backward.

 
Past Medical History:
PMH:
Tension PTX from stab wound
PTSD
Hx of substantial fall, broken back, 
pain pill addiction

PSH:
Ex-lap for epigastric stab wound
Spinal surgery T4

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION
HR: 66 BP: 114/70 Resp: 16 O(2)Sat: 98%
Constitutional: uncomfortable
HEENT: Normal
Chest: diffuse tenderness to right side of ribs.
Cardiovascular: Normal
Abdominal: Normal
Extr/Back: right wrist in splint, tender to wrist and
forearm. NVID
Skin: Normal
Neuro: cn ___ intact.  NVID all 4 extremities
Psych: Normal

PHYSICAL EXAMINATION ON DISCHARGE
HR: 55 BP: 100/61 Resp: 16 O(2)Sat: 95% RA
Constitutional: comfortable
HEENT: Normocephalic, nontender, PERRLA, MMM
Chest: diffuse tenderness to right side of ribs.
Cardiovascular: HRR, normal S1/S2
Abdominal: Soft, NT/ND
Extr/Back: right wrist in splint, Full, painless AROM/PROM of 
shoulder, elbow, and digits. Wrist tender. +radial pulse. +csm.
Skin: Intact
Neuro: CN II-XII intact. Moving all 4 extremities. Speech fluent
Psych: Normal mood

 
Pertinent Results:
___ 04:55PM BLOOD WBC-6.6 RBC-3.94* Hgb-12.5* Hct-36.6* 
MCV-93 MCH-31.7 MCHC-34.1 RDW-12.8 Plt ___
___ 04:55PM BLOOD ___ PTT-28.2 ___
___ 04:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:07PM BLOOD Glucose-82 Na-142 K-4.1 Cl-104 calHCO3-26

IMAGING:
___: Hand Xray: nondisplaced  distal right  radius  
fracture.
___: CT C-SPINE : No fracture or traumatic malalignment 
___: CT HEAD : No acute intracranial process.   
___: CT CHEST:  Small right posterior pneumothorax. Right 
___ and probable 9th rib nondisplaced fractures posteriorly.  
Multiple old right rib fractures.  
___: CT ABD & PELVIS: No intra-abdominal injury is detected

 
Brief Hospital Course:
___ year old male who presents from medflight to ___ s/p 25 
foot fall off of ladder. The patient arrived hemodynamically 
stable with a GCS of 15. There was no LOC. He was complaining of 
right posterior chest pain and right arm pain. Chest CT showed a 
fractured ___ and ___ posterior rib and a very tiny right 
pneumothorax. Right arm x-ray showed a nondisplaced distal 
radius fracture. The Orthopedic surgery team was consulted and 
they deemed the fracture non-operable. The arm was splinted at 
the bedside. He was seen and examined by the Acute Care Trauma 
Surgery team and was admitted the floor over night for 
observation.  

On HD1 the patient was doing well. His repeat CXR did not show 
any increase in size of the small right pneumothorax. His pain 
was well controlled with oral medications and he was able to use 
the incentive spirometer to take deep breaths. Physical Therapy 
worked with the patient and thought he would benefit from 
outpatient ___ for his arm fracture. The ortho tech came and 
casted the right arm. 

The patient was discharged home on HD1 in good condition and 
hemodynamically stable. He was ambulating ad lib, his pain was 
well controlled, he was voiding without difficulty and 
tolerating a regular diet. Discharge instructions and 
prescriptions were reviewed with the patient and his questions 
were answered; the patient was agreeable to the plan and 
instructions. He was sent home with prescriptions and was going 
for outpatient ___. He had follow up appointments made with in 
the ___ clinic as well as in the ___ clinic. 
 
Medications on Admission:
1. Buprenorphine-Naloxone (8mg-2mg) 1 TAB SL DAILY 
2. ClonazePAM 1 mg PO DAILY 
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
do not exceed 3000mg/day 
2. ClonazePAM 1 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
do not take suboxone while taking this 
5. Lidocaine 5% Patch 1 PTCH TD QAM rib pain 
6. Nicotine Patch 14 mg TD DAILY 
do not smoke while taking this 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ right posterior rib fractures
small right hemothorax
right distal nondisplaced radius fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr ___,
You were admitted to the ___ under the Acute Care Trauma 
Surgery service after sustaining injuries from a fall. You 
fractured your right ___, and 11th rib, had a small injury to 
your lung, and fractured your right radius. You were seen by the 
orthopedic doctors who determined your arm fracture is 
non-operable and only requires a cast. You will follow up in 
their clinic next week. You were monitored overnight and a 
repeat chest X-Ray from this morning shows your lung injury is 
improved. You are ready to return home to continue your 
recovery. 

* Your injury caused 2 rib fractures which can cause severe pain 
and subsequently cause you to take shallow breaths because of 
the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___